US05677459
Repeating the procedure of Example 16, but using trimethylsilylacetylene in place of phenylacetylene, 5-ethynyl-3-(1-methyl-2-pyrrolidinyl)pyridine and the fumarate derivative thereof were obtained as follows. 5-Trimethylsilylethynyl-3-(1-methyl-2-pyrrolidinyl) pyridine (516 mg, 2 mmol) and cesium carbonate (200 mg, 0.6 mmol) were dissolved in methanol (10 mL) and heated under reflux for 5 h. After cooling the solvents were removed in vacuo and the residue dissolved in ethyl acetate (40 mL) and washed with water (10 mL). The aqueous layer was extracted with ethyl acetate (40 mL) and the combined organic extracts washed with brine (10 mL), dried (Na2SO4) and concentrated in vacuo. The crude product was chromatographed on "flash" silica gel with ethyl acetate:hexane (1:9, 1:4, 1,3) to afford 5-ethynyl-3-(1-methyl-2-pyrrolidinyl)pyridine as an oil, 218 mg, 59%.

reactant | 5-Trimethylsilylethynyl-3-(1-methyl-2-pyrrolidinyl) pyridine | 2 mmol, 516 mg | C[Si](C)(C)C#CC=1C=C(C=NC1)C1N(CCC1)C | C15H22N2Si
reactant | cesium carbonate | 0.6 mmol, 200 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methanol | 10 mL | CO | CH4O
product | 5-ethynyl-3-(1-methyl-2-pyrrolidinyl)pyridine | C(#C)C=1C=C(C=NC1)C1N(CCC1)C | C12H14N2
